US05231102
b) Trans-2-carboxy-5,7-dichloro-4-n-propylcarbonylamino-1,2,3,4-tetrahydroquinoline
To a solution of trans-5,7-dichloro-2-methoxycarbonyl-4-n-propylcarbonyl-amino-1,2,3,4-tetrahydroquinoline (0.70 g, 0.493 mmol) in a mixture of tetrahydrofuran (15 ml) and water (5 ml) was added aqueous lithium hydroxide (1.1 ml of a 0.50M solution, 0.55 mmol) and the resulting mixture was stirred at room temperature for 20 h. The organic solvent was then removed under vacuum and the aqueous residue was diluted with dilute sodium bicarbonate solution (50 ml) then washed with ethyl acetate (1×30 ml). The aqueous phase was separated, acidified with dilute hydrochloric acid and extracted with ethylacetate (2×50 ml). The combined extracts were washed with brine (1×50 ml), dried (MgSO4) and evaporated to give a solid which was triturated with diethyl ether to give the title compound as colourless crystals (0.123 g) m.p. 174°-176° C. (dec). δ (DMSO, 360 MHz) δ 0.85 (3H, t, J=7.4 Hz, COCH2CH2CH3), 1.48-1.64 (3H, m, CHACHBHCCHD) and COCH2CH2CH3), 2.04 (2H, t, J=7.2 Hz, COCH2CH2CH3), 2.16 (1H, dm, J=13.1 Hz, CHACHBHCCHD), 3.82 (1H, dd, J=12.6 and 2.8 Hz, CHACHBHCCHD), 5.01 (1H, m, CHACHBHcCHDNHCO) 6.64 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.76 (1H, s, ArNH), 6.87 (1H, d, J=2.1 Hz, 6-H or 8-H), 8.10 (1H, d, J=7.2 Hz, --CHDNHCO--); m/e 330 (M+), 198 (100%, M-NHCOCH2CH2CH3, CO2H and H); Found C, 50.09; H, 4.78; N, 8.41; C14H16Cl2N2 03.0.2H2O requires C, 50.22; H, 4.94; N, 8.37%.

reactant | trans-5,7-dichloro-2-methoxycarbonyl-4-n-propylcarbonyl-amino-1,2,3,4-tetrahydroquinoline | 0.493 mmol, 0.70 g | ClC1=C2[C@H](C[C@@H](N(C2=CC(=C1)Cl)N)C(=O)OC)C(=O)CCC | C15H18Cl2N2O3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | Trans-2-carboxy-5,7-dichloro-4-n-propylcarbonylamino-1,2,3,4-tetrahydroquinoline | 0.123 g | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)CCC)Cl)Cl | C14H16Cl2N2O3
